US04861769
To a suspension of crude 2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetic acid (syn isomer)(2.63 g) in a mixture of N,N-dimethylformamide (50 ml), tetrahydrofuran (20 ml) and pyridine (2 ml) was added trifluoroacetic anhydride (1.77 ml) under ice-cooling. The mixture was stirred for 30 minutes at the same temperature. The mixture was poured into ice-water, adjusted to pH 2.5 with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with petroleum ether to give 2-cyclopropyloxyimino-2-(2-trifluoroacetamidothiazol-4-yl)acetic acid (syn isomer)(1.70 g) as a solid.

reactant | 2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetic acid | 2.63 g | NC=1SC=C(N1)C(C(=O)O)=NOC1CC1 | C8H9N3O3S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | trifluoroacetic anhydride | 1.77 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-cyclopropyloxyimino-2-(2-trifluoroacetamidothiazol-4-yl)acetic acid | 1.70 g | C1(CC1)ON=C(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C10H8F3N3O4S
